* absdelay transient example (5-stage delay line, total delay = 10 ns)
* A pulse on the input appears at the output shifted right by 10 ns.
.model dly absdelay_dly (delay=2n)
Ndly1 in    n1   dly
Ndly2 n1    n2   dly
Ndly3 n2    n3   dly
Ndly4 n3    n4   dly
Ndly5 n4    out  dly
Vin in 0 PULSE(0 1 0 0.5n 0.5n 9.5n 40n)
.tran 0.1n 80n uic
.control
  pre_osdi /Users/meisam/software-builds/version2/absdelay_examples/absdelay.osdi
  run
  wrdata RESULTFILE v(in) v(out)
.endc
.end
