.title examlpe autobus binding

.option autobus

.include ./mysub.subckt

V1 a 0 DC 1.0
X1 a b mysub
X2 b 0 mysub



.control
pre_osdi ./va_res.osdi

dc V1 0.0 10.0 1

print V(a) V(b)

.endc

.end